US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid 5-Methyl-2-oxo-[1,3]dioxol-4-ylmethyl Ester
5-Hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid (8.1 mg, 39 μmol) and HCTU (16.2 mg, 39 μmol) were combined in DMF (166 μL, 2.1 mmol) and stirred at room temperature for 15 minutes. DIPEA (19 μL, 0.1 mmol) and (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid 5-methyl-2-oxo[1,3]dioxol-4-ylmethyl ester (15.4 mg, 36 μmol) were added, and the resulting mixture was stirred at room temperature for 30 minutes. The solvent was removed in vacuo and the crude product was purified by preparative HPLC to yield the title compound (18 mg). MS m/z [M+H]+ calc'd for C31H27ClN4O8, 619.15. found 619.1.

reactant | 5-Hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid | 39 μmol, 8.1 mg | OC1=CC(=NN1C1=NC=CC=C1)C(=O)O | C9H7N3O3
reactant | HCTU | 39 μmol, 16.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 2.1 mmol, 166 μL | CN(C)C=O | C3H7NO
reactant | DIPEA | 0.1 mmol, 19 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid 5-methyl-2-oxo[1,3]dioxol-4-ylmethyl ester | 36 μmol, 15.4 mg | CC1=C(OC(O1)=O)COC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C22H22ClNO6
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid 5-Methyl-2-oxo-[1,3]dioxol-4-ylmethyl Ester | 18 mg | CC1=C(OC(O1)=O)COC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=NN(C(=C1)O)C1=NC=CC=C1)O)=O | C31H27ClN4O8
